US07414060B2
3-(3,5-Difluoro-phenylamino)-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide
The title compound was prepared from 3-tert-Butoxy-carbonylamino-6-methyl-pyridine-2-carboxylic acid methyl ester in accordance with the general method of example 4; step 2 using 1-(2-Methoxy-ethyl)-1H-pyrazol-3-yl amine instead of 2-chloro-4-aminopyridine to yield {2-[1-(2-Methoxy-ethyl)-1H-pyrazol-3-ylcarbamoyl]-6-methyl-pyridin-3-yl}-carbamic acid tert-butyl ester as a yellow oil, MS (ISP): m/e=376.5 (M+H+). Boc-deprotection as described in example 4 step 3 yielded 3-Amino-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide as a yellow oil, MS (ISP): m/e=276.3 (M+H+). Palladium catalysed arylation in accordance with the general method described in example 20 using 1-Bromo-3,5-difluorobenzene instead of 3-bromopyridine yielded the final compound as a light brown solid, MS (ISP): m/e=388.4 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide | COCCN1N=C(C=C1)NC(=O)C1=NC(=CC=C1N)C | C13H17N5O2
reactant | 1-Bromo-3,5-difluorobenzene | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
catalyst | Palladium | [Pd] | Pd
product | 3-(3,5-Difluoro-phenylamino)-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide | COCCN1N=C(C=C1)NC(=O)C1=NC(=CC=C1NC1=CC(=CC(=C1)F)F)C | C19H19F2N5O2
